US06642229B2
2-Bromo-5-fluorobenzonitrile and 3-nitrophenylboronic acid were coupled following the procedure in Example 1 to afford 4-fluoro-3′-nitro-biphenyl-2-carbonitrile as a black solid: δH (360 MHz, CDCl3) 7.39-7.48 (2H, m), 7.52-7.64 (1H, m), 7.71 (1H, dd, J 8 and 8), 7.89 (1H, d, J 8), 8.33-8.37 (2H, m).

reactant | 2-Bromo-5-fluorobenzonitrile | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | 3-nitrophenylboronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 4-fluoro-3′-nitro-biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C13H7FN2O2
